US08030337B2
N-[2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide
N-[2-(2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]acetamide (165 mg, 0.644 mmol) was dissolved in methanol (6.4 mL), a 10% palladium-carbon powder (82 mg) was added, and the mixture was stirred at room temperature for 12 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→95/5) to give the title compound (148 mg, yield 89%).

reactant | N-[2-(2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]acetamide | 0.644 mmol, 165 mg | CC=1OC2=C(N1)C=CC=1CCC(C12)=CCNC(C)=O | C15H16N2O2
solvent | methanol | 6.4 mL | CO | CH4O
catalyst | palladium-carbon | 82 mg | [C].[Pd]
product | N-[2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide | 148 mg, yield 89% | CC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C15H18N2O2
